US09085583B2
Step 1: tert-butyl 2-methyl-1-(3-methylbutanoyl)-1H-indole-3-carboxylate
To a solution of tert-butyl 2-methyl-1H-indole-3-carboxylate (300 mg, 1.30 mmol) in N,N-dimethylformamide (10 mL) was added sodium hydride (103.76 mg, 2.59 mmol, 60%). The mixture was stirred at 0° C. for 30 minutes. Then 3-methylbutanoyl chloride (234.60 mg, 1.95 mmol) was added at 0° C. and the mixture was stirred at room temperature (25° C.) for 2 hours. The mixture was cooled with ice, quenched with water (5 mL), diluted with ethyl acetate (20 mL), washed with brine (20 mL), extracted with ethyl acetate three times (20 mL×3), then dried over sodium sulfate. After concentration, the residue was purified by column on silica gel (0%-5% PE/EA) to afford the title compound (200 mg, yield: 48.89%).

reactant | tert-butyl 2-methyl-1H-indole-3-carboxylate | 1.30 mmol, 300 mg | CC=1NC2=CC=CC=C2C1C(=O)OC(C)(C)C | C14H17NO2
reactant | sodium hydride | 2.59 mmol, 103.76 mg | [H-].[Na+]
reactant | 3-methylbutanoyl chloride | 1.95 mmol, 234.60 mg | CC(CC(=O)Cl)C | C5H9ClO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | tert-butyl 2-methyl-1-(3-methylbutanoyl)-1H-indole-3-carboxylate | 200 mg, yield: 48.89% | CC=1N(C2=CC=CC=C2C1C(=O)OC(C)(C)C)C(CC(C)C)=O | C19H25NO3
